US05474994
60 ml of 50% (w/v) sodium hydroxide was added dropwise during 30 minutes to a solution of 17.6 g of a 7:3 E-Z mixture of 2'-hydroxy-3'-(1-propenyl)propiophenone (prepared as described in R. E. Ford. et al., J. Med. Chem., 29,538, (1986)) and 10.82 g of benzaldehyde in 73 ml of ethanol stirred at 0° C. The temperature of the reaction mixture was raised to 25° C. and stirring was continued for 4 hours. After standing at room temperature overnight, 150 ml of water was added, followed by dropwise addition of 95 ml of 37% hydrochloric acid under stirring at O° C. The precipitated solid was filtered by suction, washed with water and desiccated, yielding 26.8 g of 1-[2-hydroxy-3-(1-propenyl)phenyl]-3-phenyl-2-propen-1-one. This material was used without further purification in the next step.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2'-hydroxy-3'-(1-propenyl)propiophenone | OC1=C(C=CC=C1C=CC)C(CC)=O | C12H14O2
reactant | benzaldehyde | 10.82 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 95 ml | Cl | ClH
solvent | ethanol | 73 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 1-[2-hydroxy-3-(1-propenyl)phenyl]-3-phenyl-2-propen-1-one | 26.8 g | OC1=C(C=CC=C1C=CC)C(C=CC1=CC=CC=C1)=O | C18H16O2
